US04375477
Tert-Butyloxycarbonyloxyimino-2-phenylacetonitrile (3.35 g, 13.6 mmoles) in dry tetrahydrofuran (40 ml) is slowly added with ice cooling to a stirred mixture of 1-fluoro-2-amino-4-pentene hydrochloride (1.9 g, 13.6 mmoles) and triethylamine (2.78 g, 27.2 mmoles) in tetrahydrofuran (30 ml). After standing overnight at room temperature, water is added, the tetrahydrofuran is removed under reduced pressure, and the residue is extracted twice with ether. After washing with 1 N sodium hydroxide, then with water until neutral, the organic layer is dried and stripped to give 1-fluoro-2-tert-butoxycarbonylamino-4-pentene (2.33 g, 85%) as an oil which is used without further purification.

reactant | Tert-Butyloxycarbonyloxyimino-2-phenylacetonitrile | 13.6 mmoles, 3.35 g | C(C)(C)(C)OC(=O)ON=C(C#N)C1=CC=CC=C1 | C13H14N2O3
reactant | 1-fluoro-2-amino-4-pentene hydrochloride | 13.6 mmoles, 1.9 g | Cl.FCC(CC=C)N
reactant | triethylamine | 27.2 mmoles, 2.78 g | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 1-fluoro-2-tert-butoxycarbonylamino-4-pentene | 2.33 g, 85% | FCC(CC=C)NC(=O)OC(C)(C)C | C10H18FNO2
